US07241798B2
Racemic 2-phenyl-1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid methyl ester (JOC 1998, 63, 5031-5041), (10.2 g, 27.5 mmol) and trimethylsulfoxoniumiodide (Aldrich), (6.6 9, 30.2 mmol) were dissolved in DMSO (100 mL), diluted with THF (200 mL), and cooled to −20° C. Oil free sodium hydride (0.8 g, 33.0 mmol) was added portionwise over approximately 20 minutes, the reaction was allowed to warm to room temperature and stirred 16 hours. The reaction mixture was poured into approximately 500 mL cold water and extracted with EtOAc. The EtOAc was washed with water two times and the aqueous extracts were combined and extracted with EtOAc. The last EtOAc extract was washed with water two times and the organic extracts were combined and washed with brine, dried over magnesium sulfate, and concentrated to a yellow gum. The gum was diluted with 45-50 mL Et2O and cooled. Scratching induced crystallization and the resultant crystals were collected by filtration to yield 2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid ethyl ester (6.23 g, 58.8% yield).

reactant | Racemic 2-phenyl-1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid methyl ester | 27.5 mmol, 10.2 g | COC(=O)C=1C(N(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C19H19NO4S
reactant | trimethylsulfoxoniumiodide | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 33.0 mmol, 0.8 g | [H-].[Na+]
reactant | water | approximately 500 mL | O | H2O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid ethyl ester | 6.23 g, 58.8% yield | C(C)OC(=O)C12C(N(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C21H23NO4S
